US05804580
3.0 g of lithium carbonate then 3.5 g of ω-bromoacetophenone are added to a solution of 5.0 g of [2,3,4-trihydroxyphenyl] [3',4',5'-trihydroxyphenyl] methanone in 20 cm3 of dimethyl-formamide maintained at 50° C., under a nitrogen atmosphere. The reaction mixture is then agitated for 6 hours at 50° C. Then 400 cm3 of a molar aceto-acetic buffer solution, the pH of which is about 4.50, are added. The resultant solution is extracted with 800 cm3 of ethyl acetate. The combined organic phases are washed with 300 cm3 of distilled water, then dried over anhydrous sodium sulphate. After filtration then evaporation to dryness under reduced pressure (2.7 kPa) at 40° C. of the ethyl acetate, 9 g of a residue are obtained and purified by chromatography on a fritted disc which contains 50 g of silica gel [eluant: dichloromethane/acetone (90/10 by volume)], collecting 30 cm3 fractions. The fractions containing the mixture of monoacetylated derivatives in position -4 and -4' are concentrated to dryness under reduced pressure (2.7 kPa), at a temperature close to 40° C. After crystallization from a dichloromethane/acetone mixture (98/2 by volume), 2.6 g of [2,3,4-trihydroxyphenyl] [3',5'-dihydroxy-4'-(2-oxo-2-phenyl-ethoxy)-phenyl] methanone is obtained in the form of a yellow powder melting at around 180° C. (with decomposition).

reactant | lithium carbonate | 3.0 g | C([O-])([O-])=O.[Li+].[Li+]
reactant | ω-bromoacetophenone | 3.5 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | [2,3,4-trihydroxyphenyl] [3',4',5'-trihydroxyphenyl] methanone | 5.0 g | OC1=C(C=CC(=C1O)O)C(=O)C1=CC(=C(C(=C1)O)O)O | C13H10O7
solvent | dimethyl-formamide | 20 cm3 | CN(C=O)C | C3H7NO
product | [2,3,4-trihydroxyphenyl] [3',5'-dihydroxy-4'-(2-oxo-2-phenyl-ethoxy)-phenyl] methanone | 2.6 g | OC1=C(C=CC(=C1O)O)C(=O)C1=CC(=C(C(=C1)O)OCC(C1=CC=CC=C1)=O)O | C21H16O8
